US08530648B2
b) 2-((1H-indol-3-yl)methyl)-9-(benzo[d]oxazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
NaH (28 mg, 1.16 mmol) was added to a stirred solution of 9-(benzo[d]oxazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one (150 mg, 0.53 mmol) in THF (5 mL) and the resulting mixture was heated under reflux for 30 min. The reaction mixture was allowed to warm to rt. Then, 3-(chloromethyl)-1-tosyl-1H-indole [471294-27-6] (201 mg, 0.63 mmol) was added and the mixture was heated at 60° C. for 18 h. The mixture was cooled to rt and saturated aqueous NH4Cl solution was added and the solution was extracted with ethyl acetate. The organic layer was washed with water and brine, filtered and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure to yield a pale brown solid. This product was directly taken for the next step for detosylation to furnish the title compound as follows:

reactant | NaH | 1.16 mmol, 28 mg | [H-].[Na+]
reactant | 9-(benzo[d]oxazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 0.53 mmol, 150 mg | O1C(=NC2=C1C=CC=C2)N2CCC1(CCCNC1=O)CC2 | C16H19N3O2
reactant | 3-(chloromethyl)-1-tosyl-1H-indole | 0.63 mmol, 201 mg | ClCC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1 | C16H14ClNO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-((1H-indol-3-yl)methyl)-9-(benzo[d]oxazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCN(CC2)C=2OC1=C(N2)C=CC=C1)=O | C25H26N4O2
